US07390809B2
Step B: 7-N-(tert-Butoxycarbonyl)-8-(hydroxymethyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine
To a solution of 733 mg (1.8 mmol) of 7-N-(tert-butoxycarbonyl)-8-[(benzyloxy)methyl]-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine in 8.0 mL of ethanol was added 400 mg of 10% palladium on carbon. The mixture was stirred under an atmosphere of hydrogen for 29 h. TLC analysis indicated that starting material was present. Thus 400 mg of 10% palladium on carbon was added and the mixture shaken on a Parr apparatus under 42 psi hydrogen for 12 h. The reaction mixture was filtered through Celite and concentrated. Flash chromatography (silica gel, 7% to 50% ethyl acetate/hexane gradient) gave the title compound as a white solid. LC/MS 267 (M+1-tBu).

reactant | 7-N-(tert-butoxycarbonyl)-8-[(benzyloxy)methyl]-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine | 1.8 mmol, 733 mg | C(C)(C)(C)OC(=O)N1C(C=2N(CC1)N=C(N2)C(F)(F)F)COCC2=CC=CC=C2 | C19H23F3N4O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 8.0 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
product | 7-N-(tert-Butoxycarbonyl)-8-(hydroxymethyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine | C(C)(C)(C)OC(=O)N1C(C=2N(CC1)N=C(N2)C(F)(F)F)CO | C12H17F3N4O3
